Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:16].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.18933018725
[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2](=[C:3]=[O:4])[C:8](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12],-1.67479848027
[O:1]=[C:2]([H:3])[H:4].[O:5][H:6]>>[O:1][C:2]([H:3])([H:4])[O:5][H:6],-2.53239130592
[O:1]([C:2]=[C:3]([H:7])[H:8])[H:5].[O:4]=[C:6]>>[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-1.15330706656
[H:1][O:2]/[C:3]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-4.63474314734
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[O:10][H:11],-1.95682481439
[H:1][C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-2.71238133446
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],3.82937120126
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13],4.03952312809
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8],6.288150302540001
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([O:3][C:4]#[C:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.7325077796300015
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-0.1109229871609999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.863076951419999
[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.98922002279
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],4.1569767890900025
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-5.679272483230001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2],-1.92163964209
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.03964816183
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-5.373064347690001
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][C:3],4.1238689069
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],0.58253542657
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.1824418769800005
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],6.64023588
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.1707856781
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],0.644607834107
[C:5]([O:6][H:7])[O:8][C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11],-0.767942714771
[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[O:1]=[O:2],-1.38393275911
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11]>>[H:1][C:2][O:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11],-1.7830914051099995
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9].[H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-1.91828068473
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.63394308494
